US05610144
By proceeding in a fashion similar to that described in Example 9, but starting from 1.4 g of methyl (2RS,5SR)-3-{3-{2-[2-(2-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetate in 30 cm3 of solution in methanol and 0.49 g of potassium hydroxide in solution in 6 cm3 of water, and after treatment and recrystallization in diisopropyl ether, 0.45 g of (2RS,5SR)-3-{3-{2-[2-(2-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetic acid, melting at about 165° C., is obtained.

reactant | methyl (2RS,5SR)-3-{3-{2-[2-(2-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetate | 1.4 g | OC1=C(C=CC=C1)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CC(=O)OC)=O)=O | C28H29N3O5
solvent | methanol | CO | CH4O
product | (2RS,5SR)-3-{3-{2-[2-(2-hydroxyphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetic acid | 0.45 g | OC1=C(C=CC=C1)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C27H27N3O5
